Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Percocet / Oxycodone / Lidoderm / Ambien
 
Attending: ___.
 
Chief Complaint:
Headache, dizziness 
 
Major Surgical or Invasive Procedure:
___ diagnostic cerebral angiogram 

 
History of Present Illness:
___ year old female presented to ___ with
dizziness, and headache in the setting of past aneurysm s/p
craniotomy for clipping. CT at OSH was negative for intracranial
bleed, however an LP was unable to be completed. She was
transferred to ___ for diagnostic angiogram. 
 
Past Medical History:
Aneurysms x 2
GERD 
Hypertension (Uncontrolled) 
Breast Cancer 

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
=============
on admission:
=============
PHYSICAL EXAM:
Temp: 97.8 °F  HR: 59, RR: 18, BP: 153/74, O2 sat: 96% RA 

Gen: WD/WN, comfortable, NAD.

HEENT: 
Pupils: PERRL    
EOMs: Intact 

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.

Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

=============
at discharge:
=============
alert, oriented x3.
PERRL. ___. EOMI. SAR ___. No drift.
R groin site clean, dry intact. No hematoma. Sensation intact.
Distal pulses 2+

 
Pertinent Results:
please see OMR for pertinent results 
 
Brief Hospital Course:
Ms. ___ is a ___ female with h/o past aneurysm 
clipping with Dr. ___ presented to OSH with headache. 
CTA was negative for hemorrhage and LP unable to be done due to 
scoliosis. She was transferred to ___ from OSH for angiogram. 
She was admitted to the ___ and taken to the angio suite on 
___ for diagnostic cerebral angiogram. Angiogram was negative 
for aneurysm. Angioseal was unable to be placed, and she was 
maintained on flat bed rest for 6 hours post-procedure. No 
further intervention was indicated. She was transferred back to 
the ___ and remained stable overnight. On ___ she was 
tolerating PO diet, pain well controlled, and ambulating. She 
was discharged home in stable condition. No further follow-up 
with neurosurgery is required in the near future.

 
Medications on Admission:
Lamotrigine: 200mg PO qAM, 100mg PO qPM 
Pantoprazole 40mg daily 
tramadol, unknown dose 
valium 10mg daily 
Aspirin 81mg daily 
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not exceed 6 tablets/day 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
capsule(s) by mouth every 6 hours as needed Disp #*30 Capsule 
Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  LamoTRIgine 200 mg PO QAM  
4.  LamoTRIgine 100 mg PO QPM  
5.  Pantoprazole 40 mg PO Q24H  
6.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___

___ had an angiogram that showed no residual or new aneurysms. 
Head CT was also negative for bleeding. 

Activity

· ___ may gradually return to your normal activities, but we 
recommend ___ take it easy for the next ___ hours to avoid 
bleeding from your groin.

· Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.

· ___ make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

· Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.

· ___ make take a shower.

Medications

· Resume your normal medications and begin new medications as 
directed.

· ___ may use Acetaminophen (Tylenol) for minor discomfort if 
___ are not otherwise restricted from taking this medication.

· If ___ take Metformin (Glucophage) ___ may start it again 
three (3) days after your procedure.

Care of the Puncture Site

· ___ will have a small bandage over the site.

· Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.

· Keep the site clean with soap and water and dry it carefully.

· ___ may use a band-aid if ___ wish.

 

What ___ ___ Experience:

· Mild tenderness and bruising at the puncture site (groin).

· Soreness in your arms from the intravenous lines.

· Mild to moderate headaches that last several days to a few 
weeks.

· Fatigue is very normal

· Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If ___ are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
· Severe pain, swelling, redness or drainage from the puncture 
site. 
· Fever greater than 101.5 degrees Fahrenheit
· Constipation
· Blood in your stool or urine
· Nausea and/or vomiting
· Extreme sleepiness and not being able to stay awake
· Severe headaches not relieved by pain relievers
· Seizures
· Any new problems with your vision or ability to speak
· Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___